US04187101
44.6 g (0.2 mol) of 4,5-dichloro-imidazole-2-carboxylic acid isopropyl ester were stirred in 200 ml of acetonitrile together with 12 g (0.4 mol) of paraformaldehyde, 40.7 g (0.4 mol) of acetic anhydride and 0.5 g of p-toluenesulphonic acid for 20 hours at 85° C. After distilling off the solvent and stirring the residue in isopropanol, 38 g (64% of theory) of 1-acetoxymethyl-4,5-dichloro-imidazole-2-carboxylic acid isopropyl ester with a melting point of 81°-82° C. were obtained.

reactant | 4,5-dichloro-imidazole-2-carboxylic acid isopropyl ester | 0.2 mol, 44.6 g | C(C)(C)OC(=O)C=1NC(=C(N1)Cl)Cl | C7H8Cl2N2O2
reactant | paraformaldehyde | 0.4 mol, 12 g | C=O | CH2O
reactant | acetic anhydride | 0.4 mol, 40.7 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
catalyst | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-acetoxymethyl-4,5-dichloro-imidazole-2-carboxylic acid isopropyl ester | 38 g, 64% | C(C)(C)OC(=O)C=1N(C(=C(N1)Cl)Cl)COC(C)=O | C10H12Cl2N2O4
